US07875645B2
2-(2-Cyclopropyl-benzyl)-4,5-dihydro-1H-imidazole was prepared from (2-cyclopropyl-phenyl)-acetonitrile and ethylene diamine in analogy to Example 19 b): light brown powder; MS (ISP): 201.4 ((M+H)+.).

reactant | (2-cyclopropyl-phenyl)-acetonitrile | C1(CC1)C1=C(C=CC=C1)CC#N | C11H11N
reactant | ethylene diamine | C(CN)N | C2H8N2
product | 2-(2-Cyclopropyl-benzyl)-4,5-dihydro-1H-imidazole | C1(CC1)C1=C(CC=2NCCN2)C=CC=C1 | C13H16N2
